US05998594
2,9-bis(4methylphenyl)-1,10-phenanthroline (2).
A 1.7 M solution of t-butyllithium in pentane (300 mL, 0.510 mol) was added under argon to a stirred suspension of p-iodotoluene (56.04 g, 0.257 mol) in ether (150 mL) at -78° C. The mixture was allowed to warm to room temperature over 1 h. The resulting solution of tolyllithium was added to a solution of 1,10-phenanthroline monohydrate (8.50 g, 0.043 mol) in toluene (100 mL). The resulting dark red solution was stirred under argon for 48 h. The reaction was carefully quenched with water (300 mL) and extracted with CH2Cl2 (3×150 mL). The combined organic layers were dried (Na2SO4) and evaporated to a volume of 500 mL under reduced pressure. The solution of crude product was oxidized by stirring with activated MnO2 (60 g). An additional portion of MnO2 (30 g) was added to the reaction after 1 h to ensure complete oxidation. After a total of 2 h, anhydrous MgSO4 (40 g) was added, and the mixture was filtered. The MnO2 /MgSO4 was washed with CH2Cl2 (300 mL), and the solvent was concentrated to a volume of 50 mL, when a crystalline solid formed. The solution was cooled in ice and filtered. The light yellow product crystals were filtered, washed with one portion of cold toluene (20 mL), and dried. Yield 8.63 g 56%). 1H NMR (CDCl3) δ8.38 (d, J=8.1 Hz, 4H), 8.29 (d, J=8.5 Hz, 2H), 8.13 (d, J=8.4 Hz, 2H), 7.77 (s, 2H), 7.40 (d, J=8.1 Hz, 4H), 2.47 (s, 6H).

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 0.510 mol, 300 mL | CCCCC | C5H12
reactant | p-iodotoluene | 0.257 mol, 56.04 g | IC1=CC=C(C=C1)C | C7H7I
reactant | tolyllithium | C1(=C(C=CC=C1)[Li])C
reactant | 1,10-phenanthroline monohydrate | 0.043 mol, 8.50 g | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,9-bis(4methylphenyl)-1,10-phenanthroline | CC1=CC=C(C=C1)C1=NC2=C3N=C(C=CC3=CC=C2C=C1)C1=CC=C(C=C1)C | C26H20N2
